US04164474
Two hundred grams of dinonylnaphthalene sulfonic acid solution of the composition used in Example 1 is placed in a 1000 ml. flask fitted with a stirrer, thermometer and condenser. The flask is heated and 8.55 g. of powdered calcium carbonate (10% excess based on the sulfonic acid) is added with agitation. After a few minutes, carbon dioxide evolution ceases. The mixture is refluxed for 30 minutes, then the solids are allowed to settle. A 10 ml. sample diluted with a mixture of heptane and isopropanol as described in Example 1, and then filtered to remove the excess carbonate, has a pH of about 6.0, indicating that the carbonate/acid equilibrium has been reached. Then 2.0 g. of calcium hydroxide in 98 g. of mineral oil is prepared and 2 mls. of the mixture is added (0.02 g. of strong base). Finally, 60 g. of mineral oil is added, and the heptane and water are distilled off. The remaining fluid is filtered hot, at 130°-140° C., through a pressure filter. There is produced a completely neutral solution of calcium dinonylnaphthalene sulfonate in mineral oil.

reactant | dinonylnaphthalene sulfonic acid | Two hundred grams | C(CCCCCCCC)C=1C(=C(C2=CC=CC=C2C1)S(=O)(=O)O)CCCCCCCCC | C28H44O3S
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | heptane | CCCCCCC | C7H16
solvent | isopropanol | C(C)(C)O | C3H8O
product | calcium dinonylnaphthalene sulfonate | C(CCCCCCCC)C=1C(=C(C2=CC=CC=C2C1)S(=O)(=O)[O-])CCCCCCCCC.[Ca+2].C(CCCCCCCC)C=1C(=C(C2=CC=CC=C2C1)S(=O)(=O)[O-])CCCCCCCCC | InChI=1S/2C28H44O3S.Ca/c2*1-3-5-7-9-11-13-15-19-24-23-25-20-17-18-22-27(25)28(32(29,30)31)26(24)21-16-14-12-10-8-6-4-2;/h2*17-18,20,22-23H,3-16,19,21H2,1-2H3,(H,29,30,31);/q;;+2/p-2
